US07365085B2
c) [1-(3-{3-[(2-Chloro-3-(trifluoromethyl)-benzyl)-(2,2-diphenylethyl)-amino]-propoxy}-phenyl-piperidine-4-carboxylic acid ethyl ester
To a stirring solution of 1-(3-hydroxyphenyl)-piperidine-4-carboxylic acid ethyl ester (0.19 g, 0.77 mmol) in 10 mL of anhydrous toluene was added 3-[(2-chloro-3-(trifluoromethyl)-benzyl)-(2,2-diphenyl-ethyl)-amino]-propan-1-ol (0.41 g, 0.92 mmol). Polymer bound triphenyphosphine (0.41 g, 1,23 mmol, 3 mmol/g, Fluka Chemie) was then added, and the mixture was reacted for 15 minutes. The reaction mixture was then cooled to 0° C. and diisopropylazodicarboxylate (0.2 g, 0.96 mmol) was added in a dropwise fashion. After stirring at RT overnight, the crude reaction mixture was filtered and the solid was washed with EtOAc. After concentration of the filtrate in vacuo, the crude product was purified by column chromatography over silica gel (silica gel 60, EM Science) using 10% EtOAc: hexane as eluent to afford 0.32 g (62%) of the title compound as an oil: MS(ESI) 679.0 (M+H+).

reactant | 1-(3-hydroxyphenyl)-piperidine-4-carboxylic acid ethyl ester | 0.77 mmol, 0.19 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=CC=C1)O | C14H19NO3
reactant | 3-[(2-chloro-3-(trifluoromethyl)-benzyl)-(2,2-diphenyl-ethyl)-amino]-propan-1-ol | 0.92 mmol, 0.41 g | ClC1=C(CN(CCCO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C25H25ClF3NO
reactant | triphenyphosphine | 1,23 mmol, 0.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.96 mmol, 0.2 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{3-[(2-Chloro-3-(trifluoromethyl)-benzyl)-(2,2-diphenylethyl)-amino]-propoxy}-phenyl-piperidine-4-carboxylic acid ethyl ester | 0.32 g, 62% | C(C)OC(=O)C1CCN(CC1)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C39H42ClF3N2O3
